US08685975B2
2-(4-Bromo-3,5-dimethoxyphenyl)furan was synthesized according to the procedure reported in WO 2008/040669 as follows. To a round bottom flask containing 3,5-dimethoxy-4-bromo-iodobenzene (7.9 g, 85% purity, 19.6 mmol), 2-furylboronic acid (3.4 g, 30.4 mmol), triphenylphosphine (0.358 g, 1.37 mmol), tetrabutylammonium bromide (7.94 g, 14.6 mmol) and Na2CO3 (4.9 g, 46.2 mmol) was added THF (87 mL) and H2O (87 mL). The mixture was degassed by alternately putting under house vacuum and argon three times for several minutes each. 10% Pd/C (1.36 g) was added and the mixture was heated at 60° C. for 17 hrs under argon. After cooling to room temperature, the mixture was filtered through Celite and rinsed with THF and EtOAc. The filtrate layers were separated and the organic layer was washed with brine, dried over Na2SO4 and concentrated. Purification by column chromatography (0-25% Et2O-hexanes) gave 2-(4-bromo-3,5-dimethoxyphenyl)furan as a white solid (5.06 g, 91% yield). Product TLC Rf 0.35 (15% EtOAc-hexanes TLC eluent).

reactant | 3,5-dimethoxy-4-bromo-iodobenzene | 19.6 mmol, 7.9 g | COC=1C=C(C=C(C1Br)OC)I | C8H8BrIO2
reactant | 2-furylboronic acid | 30.4 mmol, 3.4 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | Na2CO3 | 46.2 mmol, 4.9 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | THF | 87 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium bromide | 14.6 mmol, 7.94 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | triphenylphosphine | 1.37 mmol, 0.358 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | H2O | 87 mL | O | H2O
product | 2-(4-bromo-3,5-dimethoxyphenyl)furan | 5.06 g, 91% yield | BrC1=C(C=C(C=C1OC)C=1OC=CC1)OC | C12H11BrO3
